Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
iodine strong / Morphine / potassium iodide
 
Attending: ___
 
Chief Complaint:
swollen legs, abdomen and face noted by family
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
Ms. ___ is a ___ year-old ___ speaking female with 
history
of HFpEF (EF 58%), CAD, atrial fibrillation (on Xarelto), HTN,
COPD (not on home O2), and CVA while on warfarin (BI-N ___
who presents as a transfer from the ___ for weight gain, edema,
and fatigue. 

Notably, she was recently admitted to the ___ heart failure
service from ___ for dyspnea in the setting of an acute
diastolic heart failure exacerbation, felt secondary to a
reduction in her home diuretic dose vs. infection (found to have
an E.coli UTI, completed treatment on ___. She received IV
Lasix and was transitioned to PO Lasix 40mg daily (increased 
from
20mg daily) on discharge. Discharge weight ___ was 122.3lbs. 

On ___, patient's daughter ___ called in to report that the
patient has been steadily gaining weight since ___. She reports
a ___ lbs. weight gain with worsening lower extremity edema,
abdominal distension, and fatigue. She has been compliant with
her home Lasix. The patient was referred to the ___, at which
time labs were notable for pro-BNP 1594, Na 127 (from 132 on
discharge), INR 3.4. She she received IV Lasix 40mg x1 and was
transferred to ___ 3.

Upon arrival to ___ 3, patient is accompanied by her daughter,
___, who endorses the above history. She adds that they have
been encouraging the patient to drink 2L of water daily, per the
recommendations they were given on discharge. She has also been
having soup and tea daily. Patient denies fevers, chills, chest
pain, dyspnea, abdominal pain, nausea, vomiting, diarrhea,
dysuria, or frequency. ___ feels the patient has had increased
swelling in her abdomen, though the patient denies this. 

REVIEW OF SYSTEMS: 10-pt ROS reviewed; pertinent
positives/negatives as above, otherwise negative
 
Past Medical History:
DEMENTIA
*S/P ORIF RIGHT HIP   
ANEMIA   
APPENDECTOMY   
ATRIAL FIBRILLATION ON COUMADIN 
CHOLECYSTECTOMY   
CHRONIC OBSTRUCTIVE PULMONARY DISEASE   
HEADACHES   
HYPERTENSION   
HYPOTHYROIDISM   
     s/p subtotal thyroidectomy 
HYSTERECTOMY   
INSOMNIA   
OSTEOPENIA   
URINARY INCONTINENCE   
CMC JOINT OSTEOARTHRITIS   
DEPRESSION   
VITAMIN D DEFICIENCY   
URINARY FREQUENCY   
HEARING LOSS ___ 
DYSPNEA   
DIABETIC RETINOPATHY 
 
Social History:
___
Family History:
mother - hx of afib, HTN, stomach cancer
father - HTN, DM, CVA
brother - hx of afib

 
Physical Exam:
ADMISSION PHYSICAL EXAM
#ERROR!
VS: 97.4 153/84 68 18 98 RA 
Dry weight: 122.3 lbs
Admission weight: 154.3 lbs.
GENERAL: Well-appearing elderly woman, laying in bed at 45 
degree
angle, in NAD
HEENT: NC/AT, EOMI, PERRL, anicteric sclera, MMM, maxillary
dentures present, no oropharyngeal erythema/exudate 
NECK: Supple, JVP 15cm  
CARDIAC: Irregularly irregular, normal S1/S2, no m/r/g 
LUNGS: Mildly tachypneic but breathing comfortably on RA without
use of accessory mm. respiration, decreased breath sounds in
bilateral bases, no wheezes or crackles  
ABDOMEN: Non-distended, active bowel sounds, soft, non-tender to
palpation in all quadrants, no appreciable hepatosplenomegaly,
mildly edematous abdominal wall 
EXTREMITIES: Warm, well-perfused, 2+ pitting edema in b/l lower
extremities extending into mid thigh  
SKIN: No significant skin lesions or rashes  
PULSES: Distal pulses palpable and symmetric

DISCHARGE PHYSICAL EXAM
#ERROR!
24 HR Data (last updated ___ @ 805)
    Temp: 97.6 (Tm 98.4), BP: 124/58 (106-144/49-76), HR: 70
(63-73), RR: 17 (___), O2 sat: 97% (97-99), O2 delivery: Ra,
Wt: 139.33 lb/63.2 kg    
GENERAL: Well-appearing elderly woman, laying in bed in NAD 
NECK: Supple, no JVD  
CARDIAC: Irregularly irregular, normal S1/S2, no m/r/g 
LUNGS: Breathing comfortably on RA without
use of accessory mm. respiration, decreased breath sounds in
bilateral bases, no wheezes or crackles  
ABDOMEN: Non-distended, active bowel sounds, soft, non-tender to
palpation in all quadrants, no appreciable hepatosplenomegaly,
mildly edematous abdominal wall 
EXTREMITIES: Warm, well-perfused, 1+ edema in b/l lower
extremities to right above the ankle; eerythema on the R
extremity is improved but now with a 4cm slightly movable 
nodular
mass in the R medial thigh
 
Pertinent Results:
ADMISSION LABS:
#ERROR!
___ 05:59PM URINE  HOURS-RANDOM UREA N-133 CREAT-12 
SODIUM-100
___ 02:30PM   LACTATE-1.1
___ 01:38PM   GLUCOSE-125* UREA N-23* CREAT-1.0 SODIUM-127* 
POTASSIUM-4.9 CHLORIDE-92* TOTAL CO2-23 ANION GAP-12
___ 01:38PM   estGFR-Using this
___ 01:38PM   ALT(SGPT)-11 AST(SGOT)-17 ALK PHOS-114* TOT 
BILI-0.6
___ 01:38PM   cTropnT-<0.01 proBNP-1594*
___ 01:38PM   CALCIUM-8.8 PHOSPHATE-3.8 MAGNESIUM-2.0
___ 01:38PM   WBC-7.4 RBC-3.46* HGB-9.5* HCT-30.1* MCV-87 
MCH-27.5 MCHC-31.6* RDW-15.3 RDWSD-49.1*
___ 01:38PM   NEUTS-75.3* LYMPHS-13.9* MONOS-9.4 EOS-0.4* 
BASOS-0.5 IM ___ AbsNeut-5.57 AbsLymp-1.03* AbsMono-0.70 
AbsEos-0.03* AbsBaso-0.04
___ 01:38PM   PLT COUNT-276
___ 01:38PM   ___ PTT-43.8* ___

IMAGING
#ERROR!
UNILATERAL LOWER EXTREMITY ULTRASOUND ___
IMPRESSION: 
No evidence of deep venous thrombosis in the right lower 
extremity veins

DISCHARGE LABS:
#ERROR!
___ 05:29AM BLOOD WBC-7.3 RBC-3.93 Hgb-10.8* Hct-33.5* 
MCV-85 MCH-27.5 MCHC-32.2 RDW-15.6* RDWSD-48.2* Plt ___
___ 05:29AM BLOOD Plt ___
___ 03:30PM BLOOD Glucose-116* UreaN-32* Creat-1.1 Na-135 
K-4.0 Cl-95* HCO3-28 AnGap-12
___ 03:30PM BLOOD Calcium-8.8 Phos-3.7 Mg-2.0
 
Brief Hospital Course:
PATIENT SUMMARY STATEMENT
#ERROR!
Ms. ___ is a ___ year-old ___ speaking female with 
history
of HFpEF (EF 58%), CAD, atrial fibrillation (on Xarelto), HTN,
and CVA while on warfarin (BI-N ___ who presented as a
transfer from the ___ for weight gain, edema, and fatigue
concerning for acute diastolic HF exacerbation. 

# CORONARIES: Unknown 
# PUMP: EF 58% (___)
# RHYTHM: Atrial fibrillation 

ACTIVE ISSUES: 
#ERROR!
# Acute diastolic heart failure exacerbation 
Patient brought in by family due to concern for ~20 lb weight 
gain. Per patient's daughter, her legs, abdomen and face were 
very edematous. Dry weight was reported as 122.6 lbs and weight 
on admission at 154.32 lbs. Her volume exam was inconsistent 
with this weight gain as she did not appear floridly overloaded. 
She had no JVD, no crackles other than lower extremity edema. 
Her pro-BNP on admission was 1594. She diuresed very well with 
40mg Iv Lasix and was transitioned to Po torsemide at 30mg 
daily. 

Etiology of this exacerbation likely secondary to confusion 
regarding fluid restriction as family was reporting that they 
were encouring patient to drink at least 2L of fluids daily. Has 
otherwise been compliant with home diuretic dosing, though 
notably, may have inadequate absorption due to mild abdominal 
edema. There was no evidence of active infection, no chest 
pain/ECG changes to suggest ACS and Atrial fib with 
well-controlled rates. It was ultimately felt that patient may 
have a new dry weight as she appeared euvolemic on discharge. 
Her discharge weight was 139.33 lbs. She was discharged on 
torsemide 30mg QD, metoprolol 50mg XL BID, amlodipine 10mg daily 
and losartan 25mg daily.

# RLE rash
Patient had an erythematous patch on the RLE which improved
overnight and now with a 4cm nodular mass in the area. Initially
suspected cellulitis. However given improvement without 
antibiotics, no fever, leukocytosis and development of nodular 
lesion, suspected phlebitis. Lower extremity ultrasound was 
negative. Encouraged patient to apply warm compress to the area 
upon discharge.

# Hyponatremia
Patient presented with hyponatremia to 127. Etiology felt to be 
hypervolemic hyponatremia in setting of volume overload, as 
above. Her sodium improved with diuresis. She was also placed on 
a 2L fluid restriction.

# Coagulopathy
Elevated INR to 3.4 on arrival. Suspect nutritional component 
and
pt also on xarelto which can affect INR. No evidence of active
bleeding. INR was 2.4 on discharge. Patient sent home with ___ 
who will continue to check INR.

CHRONIC ISSUES: 
#ERROR!
# Atrial fibrillation
CHADS2-VASc 9
Continued home metoprolol fractionated to 25mg Q6h and home 
rivaroxaban 20mg qpm. 

# Hypertension
Continued home amlodipine 10mg daily and losartan 25mg daily

# CVA
Admitted to BI-N in ___ with CVA while on warfarin.
Transitioned to rivaroxaban at this time and ASA 81mg daily
discontinued. 

# PAD
# CAD
Previously on ASA 81mg daily; discontinued upon initiation of
rivaroxaban in ___. Continued home atorvastatin 20mg qpm and 
metoprolol as above.

# Medullary thyroid carcinoma s/p thyroidectomy
# Post-surgical hypothyroidism
Continued home levothyroxine 112mcg daily.

TRANSITIONAL ISSUES:
#ERROR!
Cr: 1.1
INR: 2.4
Weight: 139.33 lb

New meds
-----------
-Torsemide 30mg QD

Discontinued meds
-----------
Lasix 40mg QD

[] Discharged home with torsemide 30mg. Please repeat BMP within 
the week
[] Suspect patient has new dry weight. Discharge weight was 
139.33 lb and appeared euvolemic
[] INR elevated on admission. Suspected nutritional and small 
contribution from ___. Going home with ___. Consider repeat 
INR in a week
[] New RLE phlebitis. Please monitor for interval change. Lower 
extremity ultrasound was negative for DVT

#ERROR!
#LANGUAGE: ___
#CODE STATUS: DNR/DNI, OK for BIPAP 
#CONTACT: ___ (Daughter) ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Rivaroxaban 20 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 
6. Furosemide 40 mg PO DAILY 
7. Levothyroxine Sodium 112 mcg PO DAILY 
8. Vitamin D 800 UNIT PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 50 mg PO BID  
2.  Torsemide 30 mg PO DAILY  
3.  amLODIPine 10 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Levothyroxine Sodium 112 mcg PO DAILY  
6.  Losartan Potassium 25 mg PO DAILY  
7.  Rivaroxaban 20 mg PO DAILY  
8.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute diastolic Heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had a heart 
failure exacerbation. You family noticed that you had gained 
extra weight and your legs and face were puffier.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- We gave you IV diuretics 
- We discontinued your home Lasix and started you on a 
medication called torsemide.
- We also noticed a rash on your right leg and a lump near the 
rash. We think this is due to inflammation in one of your blood 
vessels. Please put a warm compress to the area for 15 mins 3 
times a day.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Weigh yourself every morning, call your doctor if your weight 
goes up more than 3 lbs. 
- Please do not take in more than 2L of fluids in a day. 
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
- Your discharge weight: 139.33 lb. You should use this as your 
baseline after you leave the hospital.  

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___